US05147893
Methyl [(2-chlorocyclopentyl)thio]acetate
trans-[(2-Chlorocyclopentyl)thio]acetic acid was dissolved in methanol (35 ml) and the solution was cooled to 5° C. with an ice bath. Hydrogen chloride gas was bubbled into the solution for 15 minutes. The methanol was removed with a gentle flush of nitrogen gas. The residue was dissolved in diethyl ether (50 ml) and washed twice with 50 ml of 15% sodium hydroxide, dried over anhydrous magnesium sulfate, filtered and concentrated to give the product as an oil. The structure was supported by NMR.

reactant | trans-[(2-Chlorocyclopentyl)thio]acetic acid | Cl[C@H]1[C@@H](CCC1)SCC(=O)O | C7H11ClO2S
reactant | methanol | 35 ml | CO | CH4O
product | Methyl [(2-chlorocyclopentyl)thio]acetate | ClC1C(CCC1)SCC(=O)OC | C8H13ClO2S
